US04837341
A mixture of 7 g of 5,6-epoxy-4,4-dimethyl-tetrahydro-pyr-2-one, 35 ml of isopropanol and 350 mg of p-toluene sulfonic acid was stirred at room temperature for 23 hours and was diluted with water. The mixture was extracted with methylene chloride and the combined extracts were washed with aqueous saturated sodium bicarbonate solution, was dried and evaporated to dryness under reduced pressure. The 9.18 g of residue was chromatographed over silica and was eluted with a 1-1 mixture of hexane-ethyl acetate to obtain 2.597 g of dl 6-isopropoxy-5-hydroxy-4,4-dimethyl-tetrahydro-pyr-2-one melting at 50° C.

reactant | 5,6-epoxy-4,4-dimethyl-tetrahydro-pyr-2-one | 7 g | O1C2C(CC(OC21)=O)(C)C | C7H10O3
reactant | isopropanol | 35 ml | C(C)(C)O | C3H8O
reactant | p-toluene sulfonic acid | 350 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 6-isopropoxy-5-hydroxy-4,4-dimethyl-tetrahydro-pyr-2-one | 2.597 g | C(C)(C)OC1C(C(CC(O1)=O)(C)C)O | C10H18O4
